US06706751B2
A solution of 109 mg (0.5 mmol) 5-(6-Fluoro-1H-indol-5-yl)-pent-4-yn-1-ol in 3 ml AcOH/TFA 2:1 was cooled to 0° C., treated with NaCNBH3 and stirred for 1 hour at room temperature. The mixture was poured into icy water, made strongly alkaline by the addition of 2M NaOH, and extracted with EtOAc. Drying of the combined organic layers with MgSO4, evaporation of the solvent, and chromatography on silica gel with CH2Cl2/MeOH 49:1 gave 80 mg (73%) of 5-(6-Fluoro-2,3-dihydro-1H-indol-5-yl)-pent-4-yn-1-ol as a colorless oil, MS: 220 (MH+).

reactant | 5-(6-Fluoro-1H-indol-5-yl)-pent-4-yn-1-ol | 0.5 mmol, 109 mg | FC1=C(C=C2C=CNC2=C1)C#CCCCO | C13H12FNO
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
reactant | water | O | H2O
reactant | NaOH | 2M | [OH-].[Na+]
solvent | AcOH TFA | 3 ml | CC(=O)O.C(=O)(C(F)(F)F)O
product | 5-(6-Fluoro-2,3-dihydro-1H-indol-5-yl)-pent-4-yn-1-ol | 80 mg, 73% | FC1=C(C=C2CCNC2=C1)C#CCCCO | C13H14FNO
